US04639451
6-[4-(2-hydroxybenzoylamino)-phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinon
1.2 Grams (7.7 m-mol) of salicyloyl chloride and 1.0 g (4.9 m-mol) of 6-(p-aminophenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone in 10 ml of benzene were stirred for 6 hours at 50° C. After cooling, the resultant crystals were washed with benzene and recrystallized from methanol-water whereby 750 mg of the title compound was obtained. M.P. 218°-220° C.

reactant | salicyloyl chloride | C(C=1C(O)=CC=CC1)(=O)Cl | C7H5ClO2
reactant | 6-(p-aminophenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 1.0 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 6-[4-(2-hydroxybenzoylamino)-phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinon | OC1=C(C(=O)NC2=CC=C(C=C2)C=2C(CC(NN2)=O)C)C=CC=C1 | C18H17N3O3
